US05250547
A solution of 6-nitro-2,2-dimethyl-3-bromomethyl-4-(2-oxo-1,2-dihydropyridin-1-yl)-2H-1-benzopyran (0.5 g, 1.27 mmol) and methylamine (40% in water, 1.1 ml, 1.397 mmol) in methanol (12 ml) was stirred at room temperature during four hours. The solvents were evaporated under reduced pressure, and water and ethyl acetate added to the residue. After stirring, the organic phase was separated and evaporated under reduced pressure. The residue was dissolved in diethyl ether and precipitated with pentane, to give 0.31 g of 6-nitro-2,2-dimethyl-3-(methylamino)methyl-4-(2-oxo-1,2-dihydropyridin-1-yl)-2H-1-benzopyran, m.p. 128° C.

reactant | 6-nitro-2,2-dimethyl-3-bromomethyl-4-(2-oxo-1,2-dihydropyridin-1-yl)-2H-1-benzopyran | 1.27 mmol, 0.5 g | [N+](=O)([O-])C=1C=CC2=C(C(=C(C(O2)(C)C)CBr)N2C(C=CC=C2)=O)C1 | C17H15BrN2O4
reactant | methylamine | 1.397 mmol, 1.1 ml | CN | CH5N
solvent | methanol | 12 ml | CO | CH4O
product | 6-nitro-2,2-dimethyl-3-(methylamino)methyl-4-(2-oxo-1,2-dihydropyridin-1-yl)-2H-1-benzopyran | 0.31 g | [N+](=O)([O-])C=1C=CC2=C(C(=C(C(O2)(C)C)CNC)N2C(C=CC=C2)=O)C1 | C18H19N3O4
